US04694016
The preparation of N-(3-chloro-4,5-dihydroisoxazol-4-yl)-N'-(p-methylbenzyl)phthalamide
3-Chloro-4-phthalimido-4,5-dihydroisoxazole (4 g, 16 mmol) was dissolved in 50 ml of dried tetrahydrofuran. 4-Methylbenzylamine (2.18 g, 18 mmol) was added at room temperature and the reaction solution was stirred at room temperature for 4 hours. The reaction mixture was concentrated in vacuo, and the residue recrystallized from chloroform to give 4.8 (80.7%) of the desired product.

reactant | 3-Chloro-4-phthalimido-4,5-dihydroisoxazole | 16 mmol, 4 g | ClC1=NOCC1N1C(C=2C(C1=O)=CC=CC2)=O | C11H7ClN2O3
reactant | 4-Methylbenzylamine | 18 mmol, 2.18 g | CC1=CC=C(CN)C=C1 | C8H11N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(3-chloro-4,5-dihydroisoxazol-4-yl)-N'-(p-methylbenzyl)phthalamide | ClC1=NOCC1NC(C=1C(C(=O)NCC2=CC=C(C=C2)C)=CC=CC1)=O | C19H18ClN3O3
